US04891293
To biphenol (0.5 mole) and 200 milliliters of absolute ethanol and sodium hydroxide (1.1 millimole) at 80° C. was added dropwise a solution of 2-chloroethanol (1 mole) in 50 milliliters of absolute ethanol. The mixture was refluxed for 48 hours, and then filtered hot and washed twice with boiling ethanol (100 milliliters). Recrystallization from boiling water provided the precursor product biphenol-diethanol, 80 to 85 percent yield of colorless crystals. The melting point for this product was 210 to 211° C.

reactant | biphenol | 0.5 mole | C=1(C(=CC=CC1)C=1C(=CC=CC1)O)O | C12H10O2
reactant | sodium hydroxide | 1.1 millimole | [OH-].[Na+]
reactant | 2-chloroethanol | 1 mole | ClCCO | C2H5ClO
reactant | ethanol | 50 milliliters | C(C)O | C2H6O
reactant | ethanol | 200 milliliters | C(C)O | C2H6O
product | biphenol-diethanol | C=1(C(=C(C(=CC1)CCO)CCO)C=1C(=CC=CC1)O)O | C16H18O4
